US04665188
1.8 g of ethyl 6-(3-pyridylmethyl)-7,8-dihydro-2-naphthalenecarboxylate was dissolved in 100 ml of ethanol and 1 g of 10% palladium carbon was added thereto. The mixture was catalytically reduced. After absorption of hydrogen gas was completed, the catalyst was removed by filtration. The filtrate was concentrated in vacuo to give 1.8 g of ethyl 6-(3-pyridylmethyl)-5,6,7,8-tetrahydro-2-naphthalenecarboxylate as an oil.

reactant | ethyl 6-(3-pyridylmethyl)-7,8-dihydro-2-naphthalenecarboxylate | 1.8 g | N1=CC(=CC=C1)CC1=CC=2C=CC(=CC2CC1)C(=O)OCC | C19H19NO2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium carbon | 1 g | [C].[Pd]
product | ethyl 6-(3-pyridylmethyl)-5,6,7,8-tetrahydro-2-naphthalenecarboxylate | 1.8 g | N1=CC(=CC=C1)CC1CC=2C=CC(=CC2CC1)C(=O)OCC | C19H21NO2
